US03971786
A solution of 6-methyl-2-((2-aminoethyl)thiomethyl) pyridine (3.7 g) and N-(3,4-dichlorobenzenesulphonyl)-N', S-dimethylisothiourea (6.2 g) in acetonitrile (250 ml) was heated under reflux for 48 hours. Concentration, followed by chromatographic purification on a column of alumina afforded N-(3,4-dichlorobenzenesulphonyl)-N'-methyl-N"-[2-((6-methyl-2-pyridyl)methylthio)ethyl]guanidine.

reactant | 6-methyl-2-((2-aminoethyl)thiomethyl) pyridine | 3.7 g | CC1=CC=CC(=N1)CSCCN | C9H14N2S
reactant | N-(3,4-dichlorobenzenesulphonyl)-N', S-dimethylisothiourea | 6.2 g | ClC=1C=C(C=CC1Cl)S(=O)(=O)NC(SC)=NC | C9H10Cl2N2O2S2
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | N-(3,4-dichlorobenzenesulphonyl)-N'-methyl-N"-[2-((6-methyl-2-pyridyl)methylthio)ethyl]guanidine | ClC=1C=C(C=CC1Cl)S(=O)(=O)NC(=NCCSCC1=NC(=CC=C1)C)NC | C17H20Cl2N4O2S2
